US08604029B2
n-Butyl lithium (1 mL, 1.6 M in hexane, 1.6 mmol) was added dropwise to a solution of 2-(4-bromo-phenyl)-1,1,1,3,3,3-hexamethyl-disilazane (0.7 g, 2.20 mmol) in dry diethyl ether (10 mL) and stirred at room temperature for 15 min then cooled in an ice bath. A solution of 4′,6′-dimethyl-2,3,5,6-tetrahydro-[1,2′]bipyridinyl-4-one (0.3 g, 1.47 mmol) in dry tetrahydrofuran (15 mL) was added and the resulting mixture heated at 50° C. for 2.5 h. The reaction mixture was brought to room temperature and stirred overnight, then cooled to 0° C. and quenched into ammonium chloride solution. The organics were extracted with ethyl acetate, washed with water, brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to yield the crude compound, to which was added 2N HCl and the resulting mixture was stirred overnight at room temperature. The pH of the solution was adjusted to pH 10 with dilute sodium hydroxide and the organics extracted with chloroform. The extract was dried over anhydrous sodium sulfate, filtered and evaporated to dryness to give a red viscous oil which was purified by washing with pentane (5×10 mL) to afford 4-(4-amino-phenyl)-4′,6′-dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]-bipyridinyl-4-ol (0.25 g, 57.3%).

reactant | n-Butyl lithium | 1.6 mmol, 1.6 M, 1 mL | C(CCC)[Li]
reactant | 2-(4-bromo-phenyl)-1,1,1,3,3,3-hexamethyl-disilazane | 2.20 mmol, 0.7 g | BrC1=CC=C(C=C1)N([Si](C)(C)C)[Si](C)(C)C | C12H22BrNSi2
reactant | 4′,6′-dimethyl-2,3,5,6-tetrahydro-[1,2′]bipyridinyl-4-one | 1.47 mmol, 0.3 g | CC1=CC(=NC(=C1)C)N1CCC(CC1)=O | C12H16N2O
reactant | HCl | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(4-amino-phenyl)-4′,6′-dimethyl-3,4,5,6-tetrahydro-2H-[1,2′]-bipyridinyl-4-ol | 0.25 g, 57.3% | NC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(=CC(=C1)C)C)O | C18H23N3O
